US05721248
2-Cinnamoyl-6-propenylphenol
3.5 g (20 mmol) of 2-acetyl-6-(1-propenyl)phenol and 2.1 g (20 mmol) of benzaldehyde are dissolved in 20 ml of ethanol, 4 ml of concentrated NaOH are added, the mixture is stirred overnight, the red crystal slurry is diluted with methanol and acidified with concentrated HCl and, after cooling, the product is filtered off with suction. Orange-red crystals of melting point 95°-98° C. are obtained.

reactant | 2-acetyl-6-(1-propenyl)phenol | 20 mmol, 3.5 g | C(C)(=O)C1=C(C(=CC=C1)C=CC)O | C11H12O2
reactant | benzaldehyde | 20 mmol, 2.1 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaOH | 4 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2-Cinnamoyl-6-propenylphenol | C(C=CC1=CC=CC=C1)(=O)C1=C(C(=CC=C1)C=CC)O | C18H16O2
